* C:\Users\USER\Documents\UAS\Elday\Inverte.asc
XX2 vga vgb vgc theta pll2
XX1 ia ib ic theta id iq abctodq3
XX3 vga vgb vgc theta vgd vgq abctodq3
XX4 id N016 N014 pi_controller
XX5 iq N029 N028 pi_controller
XX6 N014 N018 N015 subtractor
XX7 N019 N028 N027 adder
XX8 N015 vgd N017 adder
XX9 vgq N027 N022 adder
XX10 N017 N022 theta N021 N023 N025 dqtoabc
XX11 id N019 gain
XX12 iq N018 gain
XX13 N023 N024 gain
XX14 N021 N020 gain
XX15 N025 N026 gain
XX18 N020 G2 G1 pwm
XX19 N024 G4 G3 pwm
XX20 N026 G6 G5 pwm
V1 N001 N012 100
V2 N012 N013 100
R1 N003 N002 1
R2 N006 N005 1
R3 N010 N009 1
L1 N003 N004 2m
L2 N006 N007 2m
L3 N010 N011 2m
R4 N008 vga 1
R§1 N008 vgb 1
R6 N008 vgc 1
XU1 N004 vga ia isense k=1
XU2 N007 vgb ib isense k=1
XU3 N011 vgc ic isense k=1
XU4 N016 Step A=1 td=0 SR=1e8
XU5 N029 Step A=1 td=0 SR=1e8
M1 N001 G1 N002 N002 STW11NM80
M2 N002 G2 N013 N013 STW11NM80
M3 N005 G4 N013 N013 STW11NM80
M4 N001 G3 N005 N005 STW11NM80
M5 N001 G5 N009 N009 STW11NM80
M6 N009 G6 N013 N013 STW11NM80

* block symbol definitions
.subckt pll2 a b c theta
B2 alpha 0 V=(2/3)*V(a)-(1/3)*V(b)-(1/3)*V(c)
B3 beta 0 V=(sqrt(3)/3)*V(b)-(sqrt(3)/3)*V(c)
B4 theta 0 V=atan2(V(beta),V(alpha))
.ends pll2

.subckt abctodq3 a b c theta d q
B1 d 0 V={cos(V(theta))*(2/3*V(a) + 1/3*V(b) + 1/3*V(c)) + sin(V(theta))*(1/(3*sqrt(3))*V(b) - 1/(3*sqrt(3))*V(c))}
B2 q 0 V={-sin(V(theta))*(2/3*V(a) + 1/3*V(b) + 1/3*V(c)) + cos(V(theta))*(1/(3*sqrt(3))*V(b) - 1/(3*sqrt(3))*V(c))}
.ends abctodq3

.subckt pi_controller Input Ref Out
XX1 N001 N002 gain params: K={R2/R1}
XX2 N004 N003 integral
XX3 N001 N004 gain params: K={1/(R1*C)}
XX4 N002 N003 Out adder
XX5 Ref Input N001 subtractor
.param R1 = 1k
.param R2 = 2.7k
.param C = 20n
.ends pi_controller

.subckt subtractor 1 2 3
B1 3 0 V=V(1)-V(2)
.ends subtractor

.subckt adder 1 2 3
B1 3 0 V=V(1)+V(2)
.ends adder

.subckt dqtoabc d q theta a b c
B1 a 0 V={(3/2)*(cos(V(theta))*V(d) - sin(V(theta))*V(q))}
B2 b 0 V={(3/2)*(cos(V(theta) - 2*pi/3)*V(d) - sin(theta - 2*pi/3)*V(q))}
B3 c NC_01 V={(3/2)*(cos(V(theta) + 2*pi/3)*V(d) - sin(V(theta) + 2*pi/3)*V(q))}
.ends dqtoabc

.subckt gain 1 2
B§gain 2 0 V={K*V(1)}
.ends gain

.subckt pwm comp NPWM PWM
V1 tri 0 PULSE(-10 10 0 {1/(2*Fs)} {1/(2*Fs)} 1n {1/(Fs)})
B1 PWM 0 V = if(V(Tri)<V(Comp),15,0)
B2 NPWM 0 V = if(V(Tri)>V(Comp),15,0)
.ends pwm

.subckt integral 1 2
B1 N001 0 V={V(1)}
B2 2 0 V={I(L1)}
R1 N002 N001 1n
L1 N002 0 1
.ends integral

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER\AppData\Local\LTspice\lib\cmp\standard.mos
.param td = 40m
.param fs = 100k
.tran 0.1ms
.param R=1
.param L=2m
.param thetadeg=30
.param theta=(thetadeg*pi)/180
.param is=50
.param id=is*cos(theta)
.param iq=id*sin(theta)
.param K=1
.lib isense.lib
.lib step.lib
.backanno
.end
